US07666888B2
3-{1-[(5-cyclopropylisoxazol-4-yl)carbonyl]pyrrolidin-3-yl}pyridine
A solution of 3-pyrrolidin-3-yl-pyridine (15 mg, 0.1 mmol), TBTU (48 mg, 0.15 mmol, 1.5 equ.) and N-ethyl-N-isopropylpropan-2-amine (17 μL, 0.1 mmol) in DMF (0.6 mL) was added to 5-cyclopropylisoxazole-4-carboxylic acid (15 mg, 0.1 mmol) and the reaction mixture was stirred at rt for 2 h. The solvent was evaporated and the crude product was purified by RP-HPLC. After evaporation of the solvents from the pure fractions, the residue was dissolved in chloroform and washed with diluted NaOH to provide the neutral compound in the organic phase that was dried (Na2SO4) and evaporated and dried in vacuum to yield the title compound (12 mg). MS (ESI, pos. ion) m/z calcd for C16H17N3O2: 283.1321, found 283.1316.

reactant | 3-pyrrolidin-3-yl-pyridine | 0.1 mmol, 15 mg | N1CC(CC1)C=1C=NC=CC1 | C9H12N2
reactant | TBTU | 0.15 mmol, 48 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.1 mmol, 17 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 5-cyclopropylisoxazole-4-carboxylic acid | 0.1 mmol, 15 mg | C1(CC1)C1=C(C=NO1)C(=O)O | C7H7NO3
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
product | 3-{1-[(5-cyclopropylisoxazol-4-yl)carbonyl]pyrrolidin-3-yl}pyridine | 12 mg | C1(CC1)C1=C(C=NO1)C(=O)N1CC(CC1)C=1C=NC=CC1 | C16H17N3O2
